* TL082 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL082    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS

.SUBCKT TL081_IMPL NULL1 -IN +IN VEE NULL2 OUT VCC NC
XSUB1 +IN -IN VCC VEE OUT TL082
.ENDS

.SUBCKT TL082_IMPL  OUT1 -IN1 +IN1 -VCC +IN2 -IN2 OUT2 +VCC
XSUB1 +IN1 -IN1 +VCC -VCC OUT1 TL082
XSUB2 +IN2 -IN2 +VCC -VCC OUT2 TL082
.ENDS

.SUBCKT TL084_IMPL  OUT1 -IN1 +IN1 -VCC +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 +VCC +IN4 -IN4 OUT4
XSUB1 +IN1 -IN1 +VCC -VCC OUT1 TL082
XSUB2 +IN2 -IN2 +VCC -VCC OUT2 TL082
XSUB3 +IN3 -IN3 +VCC -VCC OUT3 TL082
XSUB4 +IN4 -IN4 +VCC -VCC OUT4 TL082
.ENDS
